US07414060B2
3-(5-Fluoro-pyridin-3-ylamino)-6-methyl-pyridine-2-carboxylic acid (5-fluoro-6-methyl-pyridin-2-yl)-amide
The title compound, light yellow solid, MS (ISP): m/e=356.1 (M+H+), was prepared from 3-Amino-6-methyl-pyridine-2-carboxylic acid (5-fluoro-6-methyl-pyridin-2-yl)-amide and 3,5-Difluoropyridine in accordance with the general method of example 7.

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid (5-fluoro-6-methyl-pyridin-2-yl)-amide | FC=1C=CC(=NC1C)NC(=O)C1=NC(=CC=C1N)C | C13H13FN4O
reactant | 3,5-Difluoropyridine | FC=1C=NC=C(C1)F | C5H3F2N
product | 3-(5-Fluoro-pyridin-3-ylamino)-6-methyl-pyridine-2-carboxylic acid (5-fluoro-6-methyl-pyridin-2-yl)-amide | FC=1C=CC(=NC1C)NC(=O)C1=NC(=CC=C1NC=1C=NC=C(C1)F)C | C18H15F2N5O
